US06605610B1
E) 6-Methyl-7-propyl-5,7,13-triazatetracyclo[9.3.1.02,10.04,8]pentadeca-2(10),3,5,8-tetraene Hydrochloride
6-Methyl-7-propyl-5,7,13-triazatetracyclo[9.3.1.02,10.04,8]pentadeca-2(10),3,5,8-tetraene-13-carboxylic acid tert-butyl ester (90 mg, 0.253 mmol) was dissolved in 3N HCl ethyl acetate (5 mL) and warmed to 100° C. for ½ hour. The mixture was cooled, concentrated, slurried in ethyl acetate, and filtered to provide a white solid (25 mg, 34%). 1H NMR (400 MHz, DMSO-d6) δ 9.56 (s, NH), 7.91 (s, 1H), 7.83 (br m, NH), 7.74 (s, 1H), 4.38 (m, 2H), 3.48 (m, 2H), 3.32 (m, 2H), 3.10 (m, 2H), 2.87 (s, 3H), 2.28 (m, 1H), 2.15 (d, J=11.0 Hz, 1H) 1.85 (m, 2H), 0.97 (m, 3H). M.p. 147-150° C.

reactant | 6-Methyl-7-propyl-5,7,13-triazatetracyclo[9.3.1.02,10.04,8]pentadeca-2(10),3,5,8-tetraene-13-carboxylic acid tert-butyl ester | 0.253 mmol, 90 mg | C(C)(C)(C)OC(=O)N1CC2C=3C=C4N(C(=NC4=CC3C(C1)C2)C)CCC | C21H29N3O2
reactant | HCl ethyl acetate | 3N, 5 mL | C(C)(=O)OCC.Cl
product | 6-Methyl-7-propyl-5,7,13-triazatetracyclo[9.3.1.02,10.04,8]pentadeca-2(10),3,5,8-tetraene Hydrochloride | 25 mg, 34% | Cl.CC1=NC2=CC=3C4CNCC(C3C=C2N1CCC)C4 | InChI=1S/C16H21N3.ClH/c1-3-4-19-10(2)18-15-6-13-11-5-12(9-17-8-11)14(13)7-16(15)19;/h6-7,11-12,17H,3-5,8-9H2,1-2H3;1H
